US08183240B2
To a mixture of sodium azide (34.01 mg, 0.0005232 mol) in ACN (0.3 mL, 0.005 mol) was added silicon(IV) chloride (0.105 mmol, 0.000105 mol) in DCM (0.1 mL, 0.002 mol) and the mixture was stirred for 30 min. 4-cyano-3-(2,4-dichlorophenyl)-5-morpholinothiophene-2-carboxamide (20.0 mg, 0.0000523 mol) was added to the above mixture, followed by sodium azide (0.0340 g, 0.000523 mol) and silicon(IV) chloride (0.16 mmol, 0.00016 mol) in DCM (0.16 mL, 0.0025 mol) and the mixture was irradiated in microwave at 160° C. for 30 min. The reaction was evaporated and purified by column chromatography to afford 4-(2,4-dichlorophenyl)-2-morpholino-5-(1H-tetrazol-5-yl)thiophene-3-carbonitrile (11.6 mg, 54.4%). LCMS: (FA) ES+ 407.09, ES− 405.20; 1H NMR (300 MHz, d1-chloroform) δ: 7.60 (d, 1H), 7.42 (dd, 1H), 7.30 (d, 1H), 3.90-3.85 (m, 4H), 3.72-3.63 (m, 4H).

reactant | sodium azide | 0.0005232 mol, 34.01 mg | [N-]=[N+]=[N-].[Na+]
reactant | ACN | 0.005 mol, 0.3 mL | C(C)#N | C2H3N
reactant | silicon(IV) chloride | 0.105 mmol | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
reactant | DCM | 0.002 mol, 0.1 mL | C(Cl)Cl | CH2Cl2
reactant | 4-cyano-3-(2,4-dichlorophenyl)-5-morpholinothiophene-2-carboxamide | 0.0000523 mol, 20.0 mg | C(#N)C=1C(=C(SC1N1CCOCC1)C(=O)N)C1=C(C=C(C=C1)Cl)Cl | C16H13Cl2N3O2S
reactant | sodium azide | 0.000523 mol, 0.0340 g | [N-]=[N+]=[N-].[Na+]
reactant | silicon(IV) chloride | 0.16 mmol | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
reactant | DCM | 0.0025 mol, 0.16 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,4-dichlorophenyl)-2-morpholino-5-(1H-tetrazol-5-yl)thiophene-3-carbonitrile | 11.6 mg, 54.4% | ClC1=C(C=CC(=C1)Cl)C=1C(=C(SC1C1=NN=NN1)N1CCOCC1)C#N | C16H12Cl2N6OS
